Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base / plastic surgical tape / lactose / dust/cats
 
Attending: ___.
 
Chief Complaint:
Nose bleed
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ with a history of b/l massive pulmonary
emboli with severe R heart strain and obstructive shock (dx
___, s/p catheter directed thrombolysis), and
hypoxemic/hypercarbic respiratory failure requiring intubation
c/b VAP/ARDS, who presents with  three weeks of epistaxis. 

Patient was recently admitted from ___ - ___. She
initially presented to ___ with extensive b/l PE
(possibly related to mild protein C deficiency). She was
hypoxemic, but was hemodynamically stable. She underwent
catheter-directed thrombolysis with improvement in radiographic
clot burden; however, she became hemodynamically stable
(presumably indicating progression to "massive" PE). She was
intubated for hypoxemic/hypercarbic respiratory failure with 
escalating ventilator requirements ___ MSSA VAP and ARDS. She
completed a course of Cefazolin (___). She was discharged
on 5L oxymizer and Apixaban, which was transitioned to warfarin
w/ enoxaparin bridge (___) due to BMI. 

Patient notes ~3 weeks of intermittent epistaxis. Her most 
recent
episode of epistaxis was last night for about 6 hours. She
reports frequent nose bleeds prior to starting anticoagulation,
for which she has undergone two cauterizations. She is on ___ 
O2
via NC at rehab and desats with activity. She has a subacute,
non-productive cough. She denies fevers and chills. She reports
chronic pleuritic chest pain since an open heart surgery as a
child (?ASD or VSD repair). 

In the ED, initial vitals were:  T96.8, HR 97, BP 121/57, RR 16,
81% on 3L 

Exam notable for:  
Gen: elderly female
CV: tachy, regular rhythm
Pulm: not tachypneic, crackles throughout lung fields
Abd: obese, soft, nontender, no rebound
Ext: bilat edema 3+ to midshin, erythema/violaceous over both
shins. foot exam negative for lesions, diffuse flaking of feet

Labs notable for:  
- VBG: 7.39/70
- K 3.2, HCO3 37, Cl 92
- Hgb 9.8
- INR 2.2, PTT 45.3  

Imaging was notable for:  
CXR 
1. Linear opacities in the right lower lung likely represent
atelectasis, 
however infection cannot be excluded in the appropriate clinical
setting. 
2. Low lung volumes with mild bibasilar atelectasis. 
3. Persistent small right pleural effusion. 
4. Tubular opacity projecting over the right lower neck is 
likely
external to the patient, however clinical correlation is
recommended. 

Patient was given:  
- IV Cefepime 2g 
- Potassium chloride 40 mEq

VS Prior to Transfer: T 98.6, HR 91, BP 98/47, RR 18, 96% 5L 

 
Past Medical History:
- HTN
- HLD
- Mild Intermittent Asthma  
- Bilateral sub-massive pulmonary emboli (___) 
- ?Obesity hypoventiliation vs OSA 
 
Social History:
___
Family History:
No family hx of PE/DVT
Parents lived to ___, ___ 
 
Physical Exam:
ADMISSION 
=========
VITAL SIGNS:  
GENERAL: NAD, sitting comfortably at 45 degrees
HEENT: Left nasal packing in place, MMM, no scleral icterus 
CARDIAC: RRR, RUSB systolic murmur, normal S1/S2 
LUNGS: Left > Right crackles, on 3L NC, normal WOB, fair air
movement 
ABDOMEN:  Obese, soft, nontender 
EXTREMITIES: Significant pitting edema to thighs bilaterally (L 
>
R), venous stasis dermatitis 
NEUROLOGIC: Alert, oriented, conversant, mild anisocoria, no
gross focal deficits 
SKIN:  Venous stasis dermatitis on lower limbs b/l

DISCHARGE
=========
GENERAL: NAD, sitting comfortably at 45 degrees
HEENT: MMM, no scleral icterus 
CARDIAC: RRR, RUSB systolic murmur, normal S1/S2 
LUNGS: Left > Right crackles, on 3L NC, normal WOB, fair air
movement 
ABDOMEN:  Obese, soft, nontender 
EXTREMITIES: Significant pitting edema to thighs bilaterally (L 
>
R), venous stasis dermatitis 
NEUROLOGIC: Alert, oriented, conversant, mild anisocoria, no
gross focal deficits 
SKIN:  Venous stasis dermatitis on lower limbs b/l 
 
Pertinent Results:
ADMISSION 
___ 07:30AM BLOOD WBC-6.0 RBC-3.55* Hgb-9.8* Hct-33.1* 
MCV-93 MCH-27.6 MCHC-29.6* RDW-16.5* RDWSD-56.2* Plt ___
___ 07:30AM BLOOD Neuts-67.7 ___ Monos-7.3 Eos-5.0 
Baso-0.5 Im ___ AbsNeut-4.09 AbsLymp-1.15* AbsMono-0.44 
AbsEos-0.30 AbsBaso-0.03
___ 07:30AM BLOOD ___ PTT-45.3* ___
___ 07:30AM BLOOD Glucose-130* UreaN-12 Creat-0.7 Na-142 
K-3.2* Cl-92* HCO3-37* AnGap-13
___ 08:28AM BLOOD Calcium-9.6 Phos-3.3 Mg-1.5*
___ 09:54AM BLOOD ___ pO2-34* pCO2-70* pH-7.39 
calTCO2-44* Base XS-13
___ 09:54AM BLOOD O2 Sat-53

DISCHARGE 
___ 07:25AM BLOOD WBC-6.5 RBC-3.62* Hgb-10.2* Hct-34.6 
MCV-96 MCH-28.2 MCHC-29.5* RDW-16.2* RDWSD-57.2* Plt ___
___ 10:41AM BLOOD ___
___ 07:25AM BLOOD Glucose-129* UreaN-12 Creat-0.7 Na-143 
K-3.9 Cl-93* HCO3-37* AnGap-13

REPORTS 

___ Imaging CHEST (PORTABLE AP) 
1. Linear opacities in the right lower lung likely represent 
atelectasis, 
however infection cannot be excluded in the appropriate clinical 
setting. 
2. Low lung volumes with mild bibasilar atelectasis. 
3. Persistent small right pleural effusion. 
4. Mild pulmonary edema 

 
Brief Hospital Course:
Mrs. ___ is a ___ with a history of b/l massive pulmonary 
emboli with severe R heart strain and obstructive shock (dx 
___, s/p catheter directed thrombolysis), and 
hypoxemic/hypercarbic respiratory failure requiring intubation 
c/b VAP/ARDS, who presents with three weeks of epistaxis. 

ACUTE ISSUES:
=============
#Epistaxis 
Patient has a history of nose bleeds preceding anticoagulation 
previously requiring cauterization. These have been attributed 
to her NC usage, but hemostasis this time was compromised by 
anticoagulation and ASA. She is hemodynamically stable and her 
respiratory status is stable/improving. Was taking ASA 81 mg 
daily until ___, but no clear indication. Removed nasal packing 
___. Stopped enoxaparin ___, as warfarin is therapeutic. 
Supplemental O2 with humidified face tent (goal 88-92%) to 
prevent further mucosal irritation. Agree with stopping ASA 
permanently (no indication). No further epistaxis. 

#Hx of massive PE
Massive PE diagnosed in ___ s/p cathter-directed 
thrombolysis. Discharged on Apixaban, but transitioned to 
warfarin ___ with enoxaparin dose. Last INR checked ___ and 
subtherapeutic, so warfarin dose increased to 8 mg daily. INR 
2.2 on admission. Stopped enoxaparin ___ after ~48 hrs of 
therapeutic warfarin. Continued warfarin 8 mg daily (Goal INR 2 
- 3). Discharge INR 2.7

#Hypoxemic/hypercarbic respiratory failure 
#Asthma
Patient is at her baseline supplemental oxygen requirement. 
Received one dose of Cefepime in the ED for ?PNA; however, she 
does not appear clinically to be infected. ___ have a history of 
OHS/OSA; followed by pulm outpatient. CXR on admission shows 
mild pulmonary edema, which may also be contributing. Has RV 
failure given ___ PEs, but unclear if there is a degree of LV 
diastolic dysfunction, as well. Symptomatic with orthopnea, so 
diuresed with IV furosemide. Continued home duonebs/albuterol 
nebs. Humidified face tent; goal SpO2 88-92% given chronic CO2 
retention. 

#Positive blood culture 
Gram positive cocci in pairs and clusters noted in 1 bottle on 
___. Very high suspicion for contaminant. No fevers or 
hemodynamic instability. Fepeat BCx with no growth to date by 
discharge. 

CHRONIC ISSUES:
===============
#Lower extremity edema 
Significant lower extremity edema. Likely multifactorial (RV 
strain w/ thromboembolic disease and venous stasis). Held 
Torsemide 20 mg daily while giving IV furosemide. Increased dose 
to 40 mg daily on discharge. 

#HTN
Previously on losartan. Stopped iso obstructive shock with PE.
Not currently requiring antihypertensives. 

# CODE: full (MOSLT in chart) 

TRANSITIONAL ISSUES
===================
- If requiring supplemental oxygen (for goal SpO2 88-92% given 
chronic CO2 retention), would prefer humidified O2 via face tent 
to prevent nasal mucosal irritation and further epistaxis. 
- Consider outpatient echo to evaluate for for LV diastolic 
dysfunction. 
- Increased Torsemide to 40 mg daily. Please monitor lytes and 
Cr and adjust based on daily weights and volume status. 
- Patient should be on warfarin indefinitely. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB 
3. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 
4. Docusate Sodium 100 mg PO BID 
5. Fleet Enema (Saline) ___AILY:PRN constipation 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H 
7. Lactulose 30 mL PO BID:PRN constipation 
8. Loratadine 10 mg PO DAILY 
9. Enoxaparin Sodium 150 mg SC BID DVT/PE Treatment 
Start: ___, First Dose: Next Routine Administration Time 
10. Miconazole Powder 2% 1 Appl TP Frequency is Unknown 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Sodium Chloride Nasal ___ SPRY NU Q2H:PRN nasal congestion 
13. Polyethylene Glycol 17 g PO DAILY 
14. Ramelteon 8 mg PO QHS 
15. Aspirin 81 mg PO DAILY 
16. Vitamin D 1000 UNIT PO DAILY 
17. Senna 8.6 mg PO QHS 
18. Torsemide 20 mg PO DAILY 
19. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
20. Warfarin 8 mg PO DAILY16 
21. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin 
2.  Miconazole Powder 2% 1 Appl TP QID:PRN rash  
3.  Torsemide 40 mg PO DAILY  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB  
6.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
7.  Docusate Sodium 100 mg PO BID  
8.  Fleet Enema (Saline) ___AILY:PRN constipation  
9.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
10.  Lactulose 30 mL PO BID:PRN constipation  
11.  Loratadine 10 mg PO DAILY  
12.  Multivitamins W/minerals 1 TAB PO DAILY  
13.  Polyethylene Glycol 17 g PO DAILY  
14.  Ramelteon 8 mg PO QHS  
15.  Senna 8.6 mg PO QHS  
16.  Sodium Chloride Nasal ___ SPRY NU Q2H:PRN nasal congestion  

17.  Vitamin D 1000 UNIT PO DAILY  
18.  Vitamin D ___ UNIT PO 1X/WEEK (MO)  
19.  Warfarin 8 mg PO DAILY16 
Target INR ___  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
- Epistaxis
- Hypoxic/hypercarbic respiratory failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You came into the hospital because you were having nosebleeding. 
 This is most likely related to your blood thinners and 
irritation from supplemental oxygen.  Lovenox was stopped 
because your warfarin level was appropriate.  He was given 
humidified oxygen with a stent.  You are also given medication 
to remove extra water from her lungs that may have contributed 
to your low oxygen level.

When you leave the hospital you should:
- Take all of your medications as prescribed.
- Attend all scheduled clinic appointments.
- If you develop another nosebleed, apply pressure to your nose 
for 20 minutes. If the bleeding is significant, you are choking 
on blood, or the bleeding will not stop, then you should come 
back to the emergency department.

It was a pleasure taking care of you, 
Your ___ Care Team

 
Followup Instructions:
___